US07189713B2
3-Pyrazin-2-yl-propionic acid ethyl ester
Butyl lithium (2.5M in hexane—2560 mL) was added within 2 hours into a 10 L flask charged with THF (3350 mL) and diisopropylamine (658 g) while the temperature was maintained at 0–5° C. with an ice bath. The LDA solution was then precooled to −50° C. and a mixture of methylpyrazine (606 g) and THF (590 mL) was added within 2 hours under vigorous stirring at −40 to −30° C. The deep red anion solution is then pumped to a cooled (−60° C.) mixture of tert-butyl bromoacetate (1255 g) and THF (3360 mL) in a 20 L reactor. During the addition of the anion solution, the temperature in the reaction vessel did not exceed −55° C. After the addition, the mixture is stirred for further 30 min at −55° C. and then transferred to a 30 L reactor (the transesterification and removal of solvents can be done for two runs at once). A solution of sodium ethylate (142 g) dissolved in EtOH (2200 mL) was then added to the orange mixture and about 12 L of solvents were distilled off until a temperature of 80° C. was reached in the distillation head and 100° C. in the boiling liquid. The mixture was cooled to approximately 30° C. and then toluene (840 mL), AcOEt (840 mL), and water (1180 mL) were added. After separation of the phases, the organic layer was extracted three times with AcOEt (420 mL) and toluene (170 mL) each. The combined organic phases were then concentrated in vacuo and the residue was distilled over a Vigreux column (bp 115 to 130° C. @ 0.07 mbar) giving the title compound (579 g).

reactant | Butyl lithium | 2.5M, 2560 mL | C(CCC)[Li]
reactant | diisopropylamine | 658 g | C(C)(C)NC(C)C | C6H15N
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | methylpyrazine | 606 g | CC1=NC=CN=C1 | C5H6N2
reactant | tert-butyl bromoacetate | 1255 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 3360 mL | C1CCOC1 | C4H8O
solvent | THF | 590 mL | C1CCOC1 | C4H8O
solvent | THF | 3350 mL | C1CCOC1 | C4H8O
product | 3-Pyrazin-2-yl-propionic acid ethyl ester | 579 g | C(C)OC(CCC1=NC=CN=C1)=O | C9H12N2O2
